US07326715B2
To a stirred solution of 4-(6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester (1 g) in a 10:1 mixture of methanol and water (25 ml) was added oxone® (potassium peroxymonosulfate; 4.1 g). The resulting suspension was stirred at room temperature for 16 hrs. After diluting with water (100 ml), product was extracted into ethyl acetate (100 ml×3) and combined organics were washed with brine (100 ml), dried over MgSO4 and concentrated in vacuo to give 4-(6-chloro-2-methanesulfonyl-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester as a white solid (1.01 g).

reactant | 4-(6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)Cl)SC | C14H21ClN4O2S
reactant | methanol | CO | CH4O
reactant | oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | water | 100 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 4-(6-chloro-2-methanesulfonyl-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.01 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)Cl)S(=O)(=O)C | C14H21ClN4O4S
